*Spice model for FDB035AN06A0
.SUBCKT FDB035AN06A0 2 1 3      
*Nom Temp=25 deg C 
*7 July 02

Ca 12 8 1.5e-9
Cb 15 14 1.5e-9
Cin 6 8 6.1e-9

Dbody 7 5 DbodyMOD
Dbreak 5 11 DbreakMOD
Dplcap 10 5 DplcapMOD

Ebreak 11 7 17 18 69.3
Eds 14 8 5 8 1
Egs 13 8 6 8 1
Esg 6 10 6 8 1
Evthres 6 21 19 8 1
Evtemp 20 6 18 22 1

It 8 17 1

Lgate 1 9 4.81e-9
Ldrain 2 5 1.0e-9
Lsource 3 7 4.63e-9

RLgate 1 9 48.1
RLdrain 2 5 10
RLsource 3 7 46.3

Mmed 16 6 8 8 MmedMOD
Mstro 16 6 8 8 MstroMOD 
Mweak 16 21 8 8 MweakMOD    

Rbreak 17 18 RbreakMOD 1
Rdrain 50 16 RdrainMOD 1.0e-4
Rgate 9 20 1.36
RSLC1 5 51 RSLCMOD 1e-6
RSLC2 5 50 1e3
Rsource 8 7 RsourceMOD 2.5e-3
Rvthres 22 8 RvthresMOD 1
Rvtemp 18 19 RvtempMOD 1
S1a 6 12 13 8 S1AMOD
S1b 13 12 13 8 S1BMOD
S2a 6 15 14 13 S2AMOD
S2b 13 15 14 13 S2BMOD

Vbat 22 19 DC 1

ESLC 51 50  VALUE={(V(5,51)/ABS(V(5,51)))*(PWR(V(5,51)/(1e-6*250),10))}

.MODEL DbodyMOD D (IS=2.4E-11 N=1.04 RS=1.65e-3 TRS1=2.7e-3 TRS2=2e-7
+ CJO=4.35e-9 M=5.4e-1 TT=1e-9 XTI=3.9)
.MODEL DbreakMOD D (RS=1.5e-1 TRS1=1e-3 TRS2=-8.9e-6)
.MODEL DplcapMOD D (CJO=1.7e-9 IS=1e-30 N=10 M=0.47)

.MODEL MmedMOD NMOS (VTO=3.3 KP=9 IS=1e-30 N=10 TOX=1 L=1u W=1u RG=1.36 T_abs=25)
.MODEL MstroMOD NMOS (VTO=4.00 KP=275 IS=1e-30 N=10 TOX=1 L=1u W=1u T_abs=25)
.MODEL MweakMOD NMOS (VTO=2.72 KP=0.03 IS=1e-30 N=10 TOX=1 L=1u W=1u RG=13.6 RS=0.1 T_abs=25) 

.MODEL RbreakMOD RES (TC1=9e-4 TC2=-9e-7)
.MODEL RdrainMOD RES (TC1=4e-2 TC2=3e-4)
.MODEL RSLCMOD RES (TC1=1e-3 TC2=1e-5)
.MODEL RsourceMOD RES (TC1=5e-3 TC2=1e-6)
.MODEL RvthresMOD RES (TC1=-6.7e-3 TC2=-1.5e-5)
.MODEL RvtempMOD RES (TC1=-2.5e-3 TC2=1e-6)

.MODEL S1AMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-4 VOFF=-1.5)
.MODEL S1BMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-1.5 VOFF=-4)
.MODEL S2AMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-1 VOFF=.5)
.MODEL S2BMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=.5 VOFF=-1)
.ENDS


.SUBCKT FDB035AN06A0_Thermal TH TL
*Thermal Model Subcircuit
CTHERM1 TH 6 6.45e-3
CTHERM2 6 5 3e-2
CTHERM3 5 4 1.4e-2
CTHERM4 4 3 1.65e-2
CTHERM5 3 2 4.85e-2
CTHERM6 2 TL 1e-1

RTHERM1 TH 6 3.24e-3
RTHERM2 6 5 8.08e-3
RTHERM3 5 4 2.28e-2
RTHERM4 4 3 1.0e-1
RTHERM5 3 2 1.1e-1
RTHERM6 2 TL 1.4e-1
.ends

