.SUBCKT FDB120N10 2 1 3

******************************************************************

**      Fairchild Discrete Modeling Group                       **

******************************************************************

**      Website         www.fairchildsemi.com\models            **

**      Scott Pearson   scott.pearson@fairchildsemi.com         **

**      Sylvie Tran     sylvie.tran@fairchildsemi.com           **

******************************************************************

**      (C) Copyright 2008 Fairchild Semiconductor Corporation  **

**                      All rights reserved                     **

**                                                              **

**                      FDB120N10 Spice model                   **

**                      Revision RevA, 4 Mar 2009 (ST)          **

******************************************************************

*Nom Temp 25 deg C

Dbody 7 5 DbodyMOD

Dbreak 5 11 DbreakMOD

Lgate 1 9 7.23e-9

Ldrain 2 5 1.44e-9

Lsource 3 7 2.1e-9

RLgate 1 9 72.3

RLdrain 2 5 14.4

RLsource 3 7 21

Rgate 9 6 2.05

It 7 17 1

Ebreak 11 7 17 7 110

Rbreak 17 7 RbreakMOD 1

.MODEL RbreakMOD RES (TC1=1e-3 TC2=-1e-6)

.MODEL DbodyMOD D (IS=22.5e-12 n=1 RS=2.012e-3 TRS1=1.5e-3 TRS2=1-6

+ CJO=1.8307e-9 M=0.6 TT=0.1e-9 XTI=-1)

.MODEL DbreakMOD D (RS=30e-3 TRS1=1e-3 TRS2=1e-6)

Rsource 7a 7 0.328e-3

Rdrain 5 16 
RdrainMOD 7.95e-3 

.MODEL RdrainMOD RES (TC1=7e-3 TC2=5e-6)

M_BSIM3 16 6 7a 7a 
Bsim3 W=9 L=1.55e-6 NRS=0 NRD=0

.MODEL Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0)

*Process Parameters

+ TOX=1060e-10 ;Oxide thickness

+ XJ=1e-6 ;Channel depth

+ NCH=1.4e17 ;Channel concentration

*Channel Current

+ U0=700 VSAT=100000 DROUT=1.8

+ DELTA=0.15 PSCBE2=0.00001 RSH=0.328e-3

*Threshold voltage

+ VTH0=3.58

*Sub-threshold characteristics

+ VOFF=-0.1 NFACTOR=1

*Junction diodes and Capacitance

+ LINT=0.25e-6 DLC=0.25e-6

+ CGSO=75e-12 CGSL=102e-12 CGDO=5.5e-12 CGDL=112e-12

+ CJ=0 CF=0 CKAPPA=1.6

* Temperature parameters

+ KT1=-1.95 KT2=0 UA1=0.01e-9
+ NJ=10)

.ENDS
